US07820659B2
3-Benzyl-1-cyclohexyl-pyrrolidin-2-one
Place 1-cyclohexyl-pyrrolidin-2-one (400 mg, 2.4 mmol) in THF (30 mL) and cool to −78° C. Slowly add LDA (2.0 M, 2.4 mL, 4.8 mmol) and stir for 15 minutes. Add benzyl bromide (1.23 g, 7.2 mmol) and stir for 3 hours. Quench with ammonium chloride and extract with dichloromethane. Dry over sodium sulfate, filter, and concentrate. Purify by silica gel (20-50% ethyl acetate in hexanes) to afford 432 mg (70%) of the title compound. Mass spectrum (apci) m/z=258.2 (M+H).

reactant | 1-cyclohexyl-pyrrolidin-2-one | 2.4 mmol, 400 mg | C1(CCCCC1)N1C(CCC1)=O | C10H17NO
reactant | LDA | 4.8 mmol, 2.0 M, 2.4 mL | [Li+].CC(C)[N-]C(C)C
reactant | benzyl bromide | 7.2 mmol, 1.23 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 3-Benzyl-1-cyclohexyl-pyrrolidin-2-one | 432 mg, 70% | C(C1=CC=CC=C1)C1C(N(CC1)C1CCCCC1)=O | C17H23NO
